US06770665B2
3-(2-Chloro-6-fluorophenyl)-5-[5-(4-hydroxyphenyl)-4-methylthien-3-yl]-1-methyl-1H-1,2,4-triazole
Dilute hydrochloric acid (4 N, 2.5 mL) was added to a suspension of 3-(2-chloro -6-fluorophenyl)-5-{4-methyl-5-[4-(tetrahydro-2H-pyran-2-yloxy)phenyl]thien-3-yl}-1-methyl-1H-1,2,4-triazole (0.62 g, 1.3 mmol) in tetrahydrofuran (2.5 mL), stirred at room temperature for 30 minutes, poured into water (20 mL) and extracted with ether (3×20 mL). The combined ethereal extracts were washed with water (100 mL) and brine (50 mL), dried over magnesium sulphate and concentrated under reduced pressure to leave the desired product (0.49 g, 96%) as a white solid. 1H NMR (CDCl3) and mass spectrometry data indicated this material to be free of impurities and to be comparable to authentic material prepared according to that in Example K.

reactant | hydrochloric acid | 4 N, 2.5 mL | Cl | ClH
reactant | 3-(2-chloro -6-fluorophenyl)-5-{4-methyl-5-[4-(tetrahydro-2H-pyran-2-yloxy)phenyl]thien-3-yl}-1-methyl-1H-1,2,4-triazole | 1.3 mmol, 0.62 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CSC(=C1C)C1=CC=C(C=C1)OC1OCCCC1)C | C25H23ClFN3O2S
reactant | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 3-(2-Chloro-6-fluorophenyl)-5-[5-(4-hydroxyphenyl)-4-methylthien-3-yl]-1-methyl-1H-1,2,4-triazole | 0.49 g, 96% | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CSC(=C1C)C1=CC=C(C=C1)O)C | C20H15ClFN3OS
